* C:\Users\Edwin\Downloads\SYNTHMANIA\VCA\Simulations\VCA\VCA.asc
V1 V+ 0 12
V2 0 V- 12
R1 AGND 0 1
V3 in 0 SINE(0 5 5k 1m)
Q1 N008 N011 N014 0 BC847A
Q2 N009 N012 N014 0 BC847A
R5 N003 N008 10k
R6 N004 N009 10k
XU2 N010 N002 V+ V- out NE5532
C3 V- AGND 100n
C4 V+ AGND 100n
R7 N010 N009 10k
R8 N002 N008 10k
R9 N010 AGND 100k
R§10k out N002 100k
R11 N011 AGND 100
R12 N011 in 10k
V4 N005 0 5V
C5 N003 AGND 100n
V5 CV 0 PULSE(0 10 2m 1n 1n 1m 2m 10)
R4 N015 CV 10k
R13 V+ N021 28k
R14 N021 V- 31k
Q4 AGND basis N019 0 BC847A
R15 N014 N019 33k
R16 N019 V- 15k
R17 basis N021 30k
R18 basis N016 47k
XU3 AGND N015 V+ V- N016 NE5532
R19 N016 N015 10k
C6 V- AGND 100n
C7 V+ AGND 100n
D1 N001 N011 1N4148
D2 N001 N012 1N4148
R20 N011 V- 100k
R21 N012 V- 100k
R22 V+ N001 100k
R23 N012 AGND 100
C8 N016 N015 1n
C§27p out N002 10p
R24 N010 N018 470k
XU4 AGND N006 V+ V- N007 NE5532
R27 N006 NC_01 10k
R28 N007 N006 10k
C11 V- AGND 100n
C12 V+ AGND 100n
C13 N007 N006 270p
R2 V+ N003 500
R3 N004 V+ 500
R10 V+ N013 10k
R29 N013 V- 90k
R30 N017 N018 {(1-pot_offset)*R_pot_offset}
R31 N018 N020 {pot_offset*R_pot_offset}
R32 V+ N017 1k
R33 N020 AGND 8k2
V6 in_1 0 SINE(0 5 5k 1m)
Q3 N026 N029 N031 0 BC847A
Q5 N027 N030 N031 0 BC847A
R25 N024 N026 1k
R26 N025 N027 1k
XU1 N028 N023 V+ V- out_1 NE5532
C1 V- AGND 100n
C2 V+ AGND 100n
R34 N028 N027 1k
R35 N023 N026 1k
R36 N028 AGND 10k
R37 out_1 N023 10k
R38 N029 AGND 100
R39 N029 in_1 15k
C9 N024 AGND 100n
V7 CV_1 0 PULSE(0 10 2m 1n 1n 1m 2m 10)
R40 N034 CV_1 10k
R41 V+ N041 28k
R42 N041 V- 56k
Q6 AGND N037 N039 0 BC847A
R43 N031 N039 3k3
R44 N039 V- 1k5
R45 N037 N041 30k
R46 N037 N035 33k
XU5 AGND N034 V+ V- N035 NE5532
R47 N035 N034 10k
C10 V- AGND 100n
C14 V+ AGND 100n
D3 N022 N032 1N4148
D4 N022 N033 1N4148
R48 N032 V- 100k
R49 N033 V- 100k
R50 V+ N022 100k
R51 N030 AGND 100
C15 N035 N034 1n
C16 out_1 N023 100p
R52 N028 N038 470k
R53 V+ N024 500
R54 N025 V+ 500
R55 N036 N038 {(1-pot_offset)*R_pot_offset}
R56 N038 N040 {pot_offset*R_pot_offset}
R57 V+ N036 1k
R58 N040 AGND 8k2
.model D D
.lib C:\Users\Edwin\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Edwin\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10m 0 1u
.include NE5532.sub
* https://sound-au.com/project213.htm
* https://yusynth.net/Modular/Commun/VCA/VCA-sch.gif
* fg = 19409Hz
* fg = 19409Hz
.param pot_offset = 0.001
.param R_pot_offset = 1k
* https://sound-au.com/project213.htm
* https://yusynth.net/Modular/Commun/VCA/VCA-sch.gif
.lib ADI1.lib
.backanno
.end
